US05360806
0.8 g of 4-trifluoromethyl-3-pyridine carboxamide was dissolved in 7 ml of acetic acid. Then, 0.72 g of a 30% hydrogen peroxide aqueous solution was gradually dropwise added thereto. After completion of the dropwise addition, the reaction solution was heated to 70° C. and stirred for 8 hours at this temperature. After completion of the reaction, the solvent was distilled off under reduced pressure. The residue thereby obtained was washed with n-hexane to obtain 0.6 g of 4-trifluoromethyl-3-pyridine carboxamide 1-oxide (melting point: 198.8° C.) as the desired product.

reactant | 4-trifluoromethyl-3-pyridine carboxamide | 0.8 g | FC(C1=C(C=NC=C1)C(=O)N)(F)F | C7H5F3N2O
reactant | hydrogen peroxide | OO | H2O2
solvent | acetic acid | 7 ml | C(C)(=O)O | C2H4O2
product | 4-trifluoromethyl-3-pyridine carboxamide 1-oxide | 0.6 g | FC(C1=C(C=[N+](C=C1)[O-])C(=O)N)(F)F | C7H5F3N2O2
